US07960409B2
(S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-phenylquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol
To a solution of (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol (100 mg, 0.22 mmol) in DME (5 mL) was added Pd(PPh3)4 (12 mg, 0.01 mmol), phenylboronic acid (34 mg, 0.29 mmol) and sodium carbonate (2M, 0.2 mL, 0.44 mmol). The mixture was refluxed for 14 h. The reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification on silica gel (eluting with acetone/dichloromethane, 1:9) gave the title compound. MS (+ESI): 507. (M+H)+.

reactant | (S)-2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | 0.22 mmol, 100 mg | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)[C@](C(F)(F)F)(CC)O | C22H17ClF4N4O
reactant | phenylboronic acid | 0.29 mmol, 34 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.44 mmol, 2M, 0.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-phenylquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F)(F)F | C28H22F4N4O
